US04166813
2,2-Bis[4-{2-benzyloxy-3-[N-(2-benzyloxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 177)
A mixture of 7.4 g of 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane, obtained as described in Example 17, and 1.44 g of sodium hydride in 150 ml of N,N-dimethylformamide was heated, with stirring, at 70°-80° C. for 2 hours. The reaction mixture was then cooled to ambient temperature and 10.3 g of benzyl bromide were added. The mixture was then heated, with stirring, at 100°-110° C. for 4 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation in vacuo, and the residue was dissolved in benzene and the benzene solution was washed, in turn, with a 5% w/w aqueous solution of sodium carbonate and with water. The washed solution was then dried over anhydrous potassium carbonate. The solvent was removed from the benzene solution by evaporation under reduced pressure and the residue thus obtained was purified by column chromatography through silica gel eluted with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine. The desired compound was obtained in the form of an pale yellow, very viscous product having an Rf value of 0.32 on thin layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 2,2-bis[4-{2-hydroxy-3-[N-(2-hydroxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | 7.4 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCO)C1CC(NC(C1)(C)C)(C)C)O)CN(C1CC(NC(C1)(C)C)(C)C)CCO | C43H72N4O6
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | benzyl bromide | 10.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2,2-Bis[4-{2-benzyloxy-3-[N-(2-benzyloxyethyl)-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]propoxy}phenyl]propane | C(C1=CC=CC=C1)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCOCC1=CC=CC=C1)C1CC(NC(C1)(C)C)(C)C)OCC1=CC=CC=C1)CN(C1CC(NC(C1)(C)C)(C)C)CCOCC1=CC=CC=C1 | C71H96N4O6
